US06818767B2
In analogy to example 6 there was prepared: on reaction of 2-methyl-4-pyrrolidin-1-yl-quinolin-7-ol with 2-picolyl choride, whereby the product was isolated as free base, 2-methyl-7-(pyridin-2-ylmethoxy)-4-pyrrolidin-1-yl-quinoline as a light brown solid. ISP mass spectrum, m/e: 320.4 (M+1 calculated for C20H21N3O: 320).

reactant | 2-methyl-4-pyrrolidin-1-yl-quinolin-7-ol | CC1=NC2=CC(=CC=C2C(=C1)N1CCCC1)O | C14H16N2O
reactant | 2-picolyl choride | N1=C(C=CC=C1)CCl | C6H6ClN
product | 2-methyl-7-(pyridin-2-ylmethoxy)-4-pyrrolidin-1-yl-quinoline | CC1=NC2=CC(=CC=C2C(=C1)N1CCCC1)OCC1=NC=CC=C1 | C20H21N3O
